US06124323
4-(2-Fluoro-4-methylbenzyl)-1-(2-(4-fluorophenoxy)ethyl)piperidine hydrochloride
The title compound was prepared from 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride (375 mg, 1.54 mmol), 2-(4-fluorophenoxy)ethyl bromide (355 mg, 1.62 mmol) and K2CO3 (437 mg, 3.16 mmol) as a colorless crystalline solid (362 mg), mp 167-168° C.; 1H NMR (CDCl3) 1.60-1.80 (m, 3H), 1.95-2.15 (m, 2H), 2.30 (s, 3H), 2.61 (d, J=6.6 Hz, 2H), 2.65-2.83 (m, 2H), 3.20-3.70 (m, 4H), 4.51 (d, J=4.2 Hz, 2H), 6.78-7.00 (m, 7H), 12.60 (bs, 1H); Anal. Calcd for C21H26ClF2NO: C, 66.05; H, 6.86; N, 3.67. Found: C, 66.09; H, 6.78; N, 3.46.

reactant | 4-(2-fluoro-4-methylbenzyl)piperidine hydrochloride | 1.54 mmol, 375 mg | Cl.FC1=C(CC2CCNCC2)C=CC(=C1)C
reactant | 2-(4-fluorophenoxy)ethyl bromide | 1.62 mmol, 355 mg | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
reactant | K2CO3 | 3.16 mmol, 437 mg | C(=O)([O-])[O-].[K+].[K+]
product | 4-(2-Fluoro-4-methylbenzyl)-1-(2-(4-fluorophenoxy)ethyl)piperidine hydrochloride | Cl.FC1=C(CC2CCN(CC2)CCOC2=CC=C(C=C2)F)C=CC(=C1)C | InChI=1S/C21H25F2NO.ClH/c1-16-2-3-18(21(23)14-16)15-17-8-10-24(11-9-17)12-13-25-20-6-4-19(22)5-7-20;/h2-7,14,17H,8-13,15H2,1H3;1H
